US06022906
5a 1-(4-Fluorophenyl) 2-dimethylamino-2-benzyl-propan-1-one
11.2 g of sodium hydride (66%) are washed with hexane to remove oil, and added to 200 ml of dry dimethylacetamide. 50.0 g (0.256 mol) of 1-(4-fluorophenyl)-2-dimethylamino-propan-1-one (prepared by the method described in U.S. Pat. No. 5,534,629) are dissolved in 50 ml of dry dimethylacetamide and added dropwise to the above described solution. Successively, 48.2 g (0.282 mol) of benzyl bromide are slowly added dropwise with stirring and warmed up to 105° C. When the mixture has been stirred at this temperature for 12 h, the reaction mixture is poured to 500 ml of ice/water and extracted with toluene. The organic phase is washed with water, dried over MgSO4 and evaporated. The residue is purified by column chromatography on silica gel with ethyl acetate-hexane (1:20) as eluent. The structure is confirmed by the 1H-NMR-spectrum, measured in CDCl3. The signals (δ in ppm) are 1.17 (s,3H), 2.33 (s,6H), 2.96 (d, 1H), 3.39 (d, 1H), 6.87 (m,2H), 7.03-7.13 (m,5H), 8.55 (m, 2H).

reactant | 1-(4-fluorophenyl)-2-dimethylamino-propan-1-one | 0.256 mol, 50.0 g | FC1=CC=C(C=C1)C(C(C)N(C)C)=O | C11H14FNO
reactant | benzyl bromide | 0.282 mol, 48.2 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylacetamide | 50 ml | CC(=O)N(C)C | C4H9NO
product | 1-(4-Fluorophenyl) 2-dimethylamino-2-benzyl-propan-1-one | FC1=CC=C(C=C1)C(C(C)(CC1=CC=CC=C1)N(C)C)=O | C18H20FNO
